US06113918
A solution of (R)-2-amino-3-benzyloxy-1-propanol (5 g, 27.6 mmol) in CH2Cl2 (250 mL) was treated with allyl chloroformate (3.2 mL, 30 mmol) and saturated aqueous NaHCO3 (250 mL) for 18 h. The organic layer was separated and concentrated in vacuo. Purification by chromatography eluting with 30% EtOAc/hexanes afforded 6.9 g (94%) of (R)-2-(allyloxycarbonylamino)-3-benzyloxy-1-propanol as an amorphous solid: 1H NMR (CDCl3) δ2.56 (br s, 1 H), 3.69 (m, 3 H), 3.88 (m, 2 H), 4.54 (s, 2 H), 4.58 (d, 2 H, J=5.6 Hz), 5.23 (dd, 1 H, J=10.4, 1.1 Hz), 5.33 (dd, 1 H, J=17.1, 1.1 Hz), 5.42 (m, 1 H), 5.93 (m, 1 H), 7.35 (m, 5 H).

reactant | (R)-2-amino-3-benzyloxy-1-propanol | 27.6 mmol, 5 g | N[C@H](CO)COCC1=CC=CC=C1 | C10H15NO2
reactant | allyl chloroformate | 30 mmol, 3.2 mL | ClC(=O)OCC=C | C4H5ClO2
reactant | NaHCO3 | 250 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | (R)-2-(allyloxycarbonylamino)-3-benzyloxy-1-propanol | 6.9 g, 94% | C(C=C)OC(=O)N[C@H](CO)COCC1=CC=CC=C1 | C14H19NO4
